US04305944
4-(3-Methoxy-2-pyridinyl)piperazine
2-Chloro-3-methoxypyridine, 7 g., 0.05 mole) was allowed to react with 21.5 g. (0.25 moles) of piperazine in the presence of 34.5 g. (0.25 mole) of pulverized potassium carbonate employing 150 ml. of amyl alcohol as reaction medium. The mixture was heated at reflux in a round bottom flask after drying the reaction mixture by distillation. A reflux period of 20 hrs. following elimination of the water was employed. The reaction mixture was filtered while hot and the solvent was removed from the filtrate by distillation. The residue was triturated with chloroform and 1 g. of solid was removed by filtration. The chloroform was removed from the filtrate by distillation yielding 3.88 g. of the desired product which was purified by distillation, b.p. 120°-124°/0.1 mmHg.

reactant | 2-Chloro-3-methoxypyridine | ClC1=NC=CC=C1OC | C6H6ClNO
reactant | piperazine | 0.25 moles | N1CCNCC1 | C4H10N2
reactant | potassium carbonate | 0.25 mole, 150 ml | C([O-])([O-])=O.[K+].[K+]
reactant | amyl alcohol | C(CCCC)O | C5H12O
product | 4-(3-Methoxy-2-pyridinyl)piperazine | COC=1C(=NC=CC1)N1CCNCC1 | C10H15N3O
